US07414061B2
4-[2-(4-Fluoro-benzyloxymethyl)-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 153, 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole (50 mg, 0.13 mmol), using 4-fluorobenzyl alcohol instead of 4-methylbenzyl alcohol, was converted to the title compound (22 mg, 36%) which was obtained as a yellow gum. MS: m/e=485.5 [M+H]+.

reactant | 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 0.13 mmol, 50 mg | ClCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H15ClN4O3
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 4-[2-(4-Fluoro-benzyloxymethyl)-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 22 mg, 36% | FC1=CC=C(COCC=2N(C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C27H21FN4O4
